US06582351B1
To a solution of 4-(trans-4-hydroxycyclohexylamino)-3-nitrobenzonitrile (1.0 g), acetic acid (345 mg) and diethyl azodicarboxylate (2.17 g, 40% solution in toluene) in anhydrous tetrahydrofuran (25 mL) was added portionwise triphenylphosphine (1.31 g) at 0° C., and the mixture was stirred at ambient temperature for 2 hours. The mixture was evaporated in vacuo and the residue was subjected to a silica gel column chromatography eluting with a mixture of n-hexane and ethyl acetate (5:1 to 3:1) and then chloroform. The obtained substance was triturated with methanol to give 4-(cis-4-acetoxycyclohexylamino)-3-nitrobenzonitrile (530 mg) as yellow powders.

reactant | 4-(trans-4-hydroxycyclohexylamino)-3-nitrobenzonitrile | 1.0 g | O[C@@H]1CC[C@H](CC1)NC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C13H15N3O3
reactant | acetic acid | 345 mg | C(C)(=O)O | C2H4O2
reactant | diethyl azodicarboxylate | 2.17 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 1.31 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 4-(cis-4-acetoxycyclohexylamino)-3-nitrobenzonitrile | 530 mg | C(C)(=O)O[C@H]1CC[C@H](CC1)NC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C15H17N3O4
